US07304071B2
4-(5-Chloro-2-cyclopropylaminopyrimidin-4-yl)-benzoic acid methyl ester (90 mg, 0.30 mmol) was dissolved in THF and 50 mg (1.2 mmol) of lithium hydroxide monohydrate dissolved in water was added. The reaction mixture was heated to 50° C. for 5 hours, cooled to room temperature, diluted with 1N HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated to afford 4-(5-chloro-2-cyclopropylaminopyrimidin-4-yl)-benzoic acid as a yellow solid, 78 mg, 0.27 mmol, 90% yield.

reactant | 4-(5-Chloro-2-cyclopropylaminopyrimidin-4-yl)-benzoic acid methyl ester | 0.30 mmol, 90 mg | COC(C1=CC=C(C=C1)C1=NC(=NC=C1Cl)NC1CC1)=O | C15H14ClN3O2
reactant | lithium hydroxide monohydrate | 1.2 mmol, 50 mg | O.[OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | HCl | 1N | Cl | ClH
product | 4-(5-chloro-2-cyclopropylaminopyrimidin-4-yl)-benzoic acid | 90% yield | ClC=1C(=NC(=NC1)NC1CC1)C1=CC=C(C(=O)O)C=C1 | C14H12ClN3O2
